US07772223B2
3-Bromo-5-Methoxy-Phenol
1-bromo-3,5-dimethyoxybenzene (3.0 g, 13.8 mmol) was dissolved in dichloromethane (45 mL) and the solution was cooled to −78° C. Boron tribromide (1M in dichloromethane, 41 mL, 41 mmol) was added and the solution was warmed gradually to room temperature over 18 hours. After cooling to −78° C., the reaction was quenched with water (100 mL). The organics were separated and washed with sodium thiosulphate solution then water, then dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel, eluting with pentane:ethyl acetate 100:0 to 80:20, to afford the title compound in 16% yield (470 mg).

reactant | 1-bromo-3,5-dimethyoxybenzene | 13.8 mmol, 3.0 g | BrC1=CC(=CC(=C1)OC)OC | C8H9BrO2
reactant | Boron tribromide | 41 mmol, 1M, 41 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | 3-Bromo-5-Methoxy-Phenol | 16% yield | BrC=1C=C(C=C(C1)OC)O | C7H7BrO2
